US06187774B1
In the same manner as in Example 102 except that 3-(4,5,6,7-tetrahydro-2-(2-pyridyl)-2H-indazol-3-yl)propionic acid obtained in Starting Material Synthesis Example 10 and 1-(4-fluorophenyl)piperazine are used instead of 3-(4,5,6,7-tetrahydro-2H-indazol-3-yl)propionic acid obtained in Starting Material Synthesis Example 1 and 4-(4-chlorophenyl)piperidine, 3-(3-(4-(4-fluorophenyl)piperazin-1-yl)propyl)-4,5,6,7-tetrahydro-2-(2-pyridyl)-2H-indazole is obtained.

reactant | 1-(4-fluorophenyl)piperazine | FC1=CC=C(C=C1)N1CCNCC1 | C10H13FN2
reactant | 3-(4,5,6,7-tetrahydro-2H-indazol-3-yl)propionic acid | N=1NC(=C2CCCCC12)CCC(=O)O | C10H14N2O2
reactant | 4-(4-chlorophenyl)piperidine | ClC1=CC=C(C=C1)C1CCNCC1 | C11H14ClN
product | 3-(3-(4-(4-fluorophenyl)piperazin-1-yl)propyl)-4,5,6,7-tetrahydro-2-(2-pyridyl)-2H-indazole | FC1=CC=C(C=C1)N1CCN(CC1)CCCC=1N(N=C2CCCCC12)C1=NC=CC=C1 | C25H30FN5
